US07935722B2
Cyclopropanecarboxylic acid[9-(3-fluorobenzyl)-6-(methoxyimino-methyl)-2,3,4,9-tetrahydro-1H-carbazol-3-yl]-amide
Combine cyclopropanecarboxylic acid[9-(3-fluoro-benzyl)-6-formyl-2,3,4,9-tetrahydro-1H-carbazol-3-yl]-amide (Preparation 70) (0.32 g, 0.82 mmol), methoxylamine (0.21 g, 2.4 mmol), and sodium hydroxide (0.049 g, 1.3 mmol) in EtOH (15 mL). Add enough water to dissolve the sodium hydroxide and stir for 18 h. Dilute with water and extract with EtOAc. Dry EtOAc extracts over Na2SO4 and filter twice through a pad of silica to give 0.21 g (61%) of an off-white solid. MS (ES): m/z 420 (M+1).

reactant | cyclopropanecarboxylic acid[9-(3-fluoro-benzyl)-6-formyl-2,3,4,9-tetrahydro-1H-carbazol-3-yl]-amide | 0.82 mmol, 0.32 g | FC=1C=C(CN2C3=CC=C(C=C3C=3CC(CCC23)NC(=O)C2CC2)C=O)C=CC1 | C24H23FN2O2
reactant | methoxylamine | 2.4 mmol, 0.21 g | O(C)N | CH5NO
reactant | sodium hydroxide | 1.3 mmol, 0.049 g | [OH-].[Na+]
solvent | EtOH | 15 mL | CCO | C2H6O
solvent | water | O | H2O
product | Cyclopropanecarboxylic acid[9-(3-fluorobenzyl)-6-(methoxyimino-methyl)-2,3,4,9-tetrahydro-1H-carbazol-3-yl]-amide | 0.21 g, 61% | FC=1C=C(CN2C3=CC=C(C=C3C=3CC(CCC23)NC(=O)C2CC2)C=NOC)C=CC1 | C25H26FN3O2
